US07612094B2
Oxalyl chloride (0.796 mL, 9.1 mmol) was added slowly to a solution of 4-benzyloxycarbonylamino-cyclohexanecarboxylic acid (2.3 g, 8.3 mmil) in dichloromethane (20 mL). The mixture was stirred at room temperature under nitrogen for 1 hour. Solvent was removed under reduced pressure. N,O-Dimethylhydroxylamine hydrochloride (0.971 g, 9.96 mmol) in anhydrous pyridine (10 mL) was added to the reaction residue. The mixture was stirred at room temperature for 3 hours. Solvent was removed under reduced pressure, and the residue was partitioned between ethyl acetate and water. Ethyl acetate solution was washed with brine, dried over sodium sulfate, filtered, and concentrated to give 1.0 g (38%) of (4-(methoxy-methyl-carbamoyl)-cyclohexyl)-carbamic acid benzyl ester as yellow oil. 1H NMR (400 MHz, CDCl3) δ 7.36 (m, 5H), 4.59 (s, 2H), 3.88 (m, 1H), 3.70 (s, 3H), 3.17 (s, 3H), 2.76 (m, 1H), 1.86 (m, 2H), 1.66 (m, 6H).

reactant | Oxalyl chloride | 9.1 mmol, 0.796 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-benzyloxycarbonylamino-cyclohexanecarboxylic acid | 2.3 g | C(C1=CC=CC=C1)OC(=O)NC1CCC(CC1)C(=O)O | C15H19NO4
reactant | N,O-Dimethylhydroxylamine hydrochloride | 9.96 mmol, 0.971 g | Cl.CNOC
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | (4-(methoxy-methyl-carbamoyl)-cyclohexyl)-carbamic acid benzyl ester | 1.0 g, 38% | C(C1=CC=CC=C1)OC(NC1CCC(CC1)C(N(C)OC)=O)=O | C17H24N2O4
